US06436953B1
3. (7R, 8R, 9R)-2,3-Dimethyl-7-ethoxy-8-hydroxy-9-phenyl-7,8,9,10-tetrahydro-imidazo[1,2-h]-[1,7]naphthyridine
500 mg of the title compound are obtained by reaction of (7R, 8R, 9R)-2,3-dimethyl-7,8-dihydroxy-9-phenyl-7,8,9,10-tetrahydro-imidazo[1,2-h][1,7]naphthyridine with ethanol and sulfuric acid according to Example 1, Method a, after purification on silica gel (eluent: diethylether). Melting point: 188-190° C.

reactant | (7R, 8R, 9R)-2,3-dimethyl-7,8-dihydroxy-9-phenyl-7,8,9,10-tetrahydro-imidazo[1,2-h][1,7]naphthyridine | CC=1N=C2N(C=CC=3[C@H]([C@@H]([C@H](NC23)C2=CC=CC=C2)O)O)C1C | C18H19N3O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | C(C)O | C2H6O
product | (7R, 8R, 9R)-2,3-Dimethyl-7-ethoxy-8-hydroxy-9-phenyl-7,8,9,10-tetrahydro-imidazo[1,2-h]-[1,7]naphthyridine | 500 mg | CC=1N=C2N(C=CC=3[C@H]([C@@H]([C@H](NC23)C2=CC=CC=C2)O)OCC)C1C | C20H23N3O2
